US07319098B2
Synthesis of 1-(3-{[2-(4-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carbonyl]-amino}-propyl)-pyrrolidinium chloride (Compound 90)
2-(4-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carboxylic acid (100 mg, 0.316 mmol) and 3-pyrrolidin-1-yl-propylamine (100 μL, 0.792 mmol) were reacted with each other. Target compound in the amount of 57 mg (39%) was obtained by following the procedure described in Example 1.

reactant | 2-(4-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carboxylic acid | 0.316 mmol, 100 mg | ClC1=CC=C(CN2C(C3=CC=C(C=C3C2=O)C(=O)O)=O)C=C1 | C16H10ClNO4
reactant | 3-pyrrolidin-1-yl-propylamine | 0.792 mmol, 100 μL | N1(CCCC1)CCCN | C7H16N2
product | 1-(3-{[2-(4-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carbonyl]-amino}-propyl)-pyrrolidinium chloride | [Cl-].ClC1=CC=C(CN2C(C3=CC=C(C=C3C2=O)C(=O)NCCC[NH+]2CCCC2)=O)C=C1 | InChI=1S/C23H24ClN3O3.ClH/c24-18-7-4-16(5-8-18)15-27-22(29)19-9-6-17(14-20(19)23(27)30)21(28)25-10-3-13-26-11-1-2-12-26;/h4-9,14H,1-3,10-13,15H2,(H,25,28);1H
